US05124330
1-(3-Bromo-4'-chlorobenzhydryl)-4-methylpiperazine (see U.S. Pat. No. 4,757,074) (1.00 g, 2.63 mmole) was dissolved in 12 ml of dry tetrahydrofuran under nitrogen and cooled to -78° C. A solution of 1.1 M n-butyllithium in hexane (2.4 ml) was added dropwise and the reaction was stirred for ten minutes. N,N-Dimethylformamide (0.25 ml, 3.2 mmole) was added in one portion and the reaction was allowed to warm to -40° C. Hydrochloric acid (1.0 M, 20 ml) was added and the reaction was warmed to room temperature. The solution was washed with 20 ml of diethyl ether and the ethereal wash was discarded. The aqueous solution was made basic with aqueous sodium hydroxide and extracted with two 15 ml portions of chloroform. The combined chloroform extracts were dried over sodium sulfate and the solvent removed to give 738 mg of crude 1-(4-chloro-3'-formylbenzhydryl)-4-methylpiperazine as a dark oil.

reactant | 1-(3-Bromo-4'-chlorobenzhydryl)-4-methylpiperazine | BrC=1C=C(C(C2=CC=C(C=C2)Cl)N2CCN(CC2)C)C=CC1 | C18H20BrClN2
reactant | n-butyllithium | 1.1 M | C(CCC)[Li]
reactant | N,N-Dimethylformamide | 3.2 mmole, 0.25 ml | CN(C=O)C | C3H7NO
reactant | Hydrochloric acid | 1.0 M, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.4 ml | CCCCCC | C6H14
product | 1-(4-chloro-3'-formylbenzhydryl)-4-methylpiperazine | 738 mg | ClC1=CC=C(C(C2=CC(=CC=C2)C=O)N2CCN(CC2)C)C=C1 | C19H21ClN2O
